US07576115B2
1) Synthesis of 1-[5-(4-n-propylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone
2-Oxopropanal methylhydrazone (19.36 mmol, 1.94 g) and oxo(4-n-propylphenyl)acetaldehyde (19.0 mmol, 3.35 g) synthesized in Reference Synthetic Example 13 were dissolved in acetic acid (42 mL) and stirred at 100° C. for 6 hours. Then, the solvent was evaporated, and the residue was dried by means of a vacuum pump and purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1), then by silica gel thin layer chromatography (chloroform) and by silica gel thin layer chromatography (n-hexane/ethyl acetate=7/2) to give the desired product as a brown solid (304 mg, yield 6%).

reactant | 2-Oxopropanal methylhydrazone | 19.36 mmol, 1.94 g | CNN=CC(C)=O | C4H8N2O
reactant | oxo(4-n-propylphenyl)acetaldehyde | 19.0 mmol, 3.35 g | O=C(C=O)C1=CC=C(C=C1)CCC | C11H12O2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | n-hexane ethyl acetate | CCCCCC.C(C)(=O)OCC
solvent | acetic acid | 42 mL | C(C)(=O)O | C2H4O2
product | 1-[5-(4-n-propylphenyl)-4-hydroxy-1-methyl-1H-pyrazol-3-yl]ethanone | 304 mg, yield 6% | C(CC)C1=CC=C(C=C1)C1=C(C(=NN1C)C(C)=O)O | C15H18N2O2
